US05086055
1-(3-Fluorophenyl)Piperazine Monohydrochloride
This compound was prepared according to the procedure of Preparation 1. A mixture of 8.0 g (0.045 mol) of bis(2-chloroethyl)amine hydrochloride, 5.0 g (0.045 mol) of m-fluoroaniline and 12.5 g (0.09 mol) of solid potassium carbonate in a total volume of 50 mL of n-butanol gave 3.5 g (35%) of white solid, mp 205°-207° C. (methanol-water-ethyl ether).

reactant | bis(2-chloroethyl)amine hydrochloride | 0.045 mol, 8.0 g | Cl.ClCCNCCCl
reactant | m-fluoroaniline | 0.045 mol, 5.0 g | FC=1C=C(N)C=CC1 | C6H6FN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | n-butanol | C(CCC)O | C4H10O
solvent | methanol water ethyl ether | CO.O.C(C)OCC
product | 1-(3-Fluorophenyl)Piperazine Monohydrochloride | 3.5 g, 35% | Cl.FC=1C=C(C=CC1)N1CCNCC1 | InChI=1S/C10H13FN2.ClH/c11-9-2-1-3-10(8-9)13-6-4-12-5-7-13;/h1-3,8,12H,4-7H2;1H
